* C:\Users\nstep\dev\circuits1\ad1\ad1.asc
V1 N001 0 80
R1 N002 N001 2000
R2 0 N003 5K tol=1 pwr=0.1
R3 0 N002 500
R4 N003 N001 1.5K
R5 N002 N003 3k
.tran 25
.backanno
.end
