* C:\Users\nstep\Desktop\stephensAD2\Draft3.asc
XU1 0 N001 N002 0 0 LT1001
R1 N001 0 125
R§250 N001 0 250
R3 N001 0 100
R4 N001 0 166.6667
R5 0 N001 1k
V5 N002 0 10
.op
.lib LTC.lib
.backanno
.end
