* C:\Users\nstep\Desktop\stephensAD2\Draft4.asc
R1 N002 N003 6
R2 N003 N005 12
R3 N003 0 2
R4 N002 N001 1
R5 N005 N004 1
R6 N005 N002 24
V1 N001 0 125
V2 0 N004 125
.op
.backanno
.end
